US06750246B1
(3R,4R)-1-Neopentylcarbonyl-4-phenyl-3-triethylsilyloxy-azetidin-2-one
By following the above procedure and using neopentylcarbonyl chloride, and (3R,4R)-4-phenyl-3-triethylsilyloxy-azetidin-2-one were converted to the title product: 1H NMR (CDCl3) δ 0.19-0.62 (m, 15H), 0.88 (s, 3H), 2.43 (d, 1H, J=13.8 Hz), 2.62 (d, 1H, J=14.1 Hz), 4.90 (d, 1H, J=5.7 Hz), 4.95 (d, 1H, J=6.0 Hz), 7.05-7.17 (m, 5H).

reactant | neopentylcarbonyl chloride | C(C(C)(C)C)C(=O)Cl | C6H11ClO
reactant | (3R,4R)-4-phenyl-3-triethylsilyloxy-azetidin-2-one | C1(=CC=CC=C1)[C@@H]1[C@H](C(N1)=O)O[Si](CC)(CC)CC | C15H23NO2Si
product | (3R,4R)-1-Neopentylcarbonyl-4-phenyl-3-triethylsilyloxy-azetidin-2-one | C(C(C)(C)C)C(=O)N1C([C@@H]([C@H]1C1=CC=CC=C1)O[Si](CC)(CC)CC)=O | C21H33NO3Si
